US09303040B2
tert-Butyl (R)-3-(4-chlorophenyl)-1-((S)-3-methyl-4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate was treated with HCl (4M in dioxane, 4 mL) in DCM to afford (R)-2-amino-3-(4-chlorophenyl)-1-((S)-3-methyl-4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride. MS (APCI+) [M+H]+ 432.

reactant | tert-Butyl (R)-3-(4-chlorophenyl)-1-((S)-3-methyl-4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate | ClC1=CC=C(C=C1)C[C@H](C(=O)N1C[C@@H](N(CC1)C=1C2=C(N=CN1)CS[C@H]2C)C)NC(OC(C)(C)C)=O | C26H34ClN5O3S
reactant | HCl | 4M, 4 mL | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-2-amino-3-(4-chlorophenyl)-1-((S)-3-methyl-4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride | Cl.Cl.N[C@@H](C(=O)N1C[C@@H](N(CC1)C=1C2=C(N=CN1)CS[C@H]2C)C)CC2=CC=C(C=C2)Cl | InChI=1S/C21H26ClN5OS.2ClH/c1-13-10-26(21(28)17(23)9-15-3-5-16(22)6-4-15)7-8-27(13)20-19-14(2)29-11-18(19)24-12-25-20;;/h3-6,12-14,17H,7-11,23H2,1-2H3;2*1H/t13-,14-,17+;;/m0../s1
